### PR TITLE
[Merged by Bors] - chore(GroupTheory): golf entire `base_smul_def` and `summand_smul_def` using `rfl`

### PR DESCRIPTION
**Pull request by euprunin**
---
<details>
<summary>Show trace profiling of <code>base_smul_def</code>: 14 ms before, <10 ms after  🎉</summary>

### Trace profiling of `base_smul_def` before PR 28563
```diff
diff --git a/Mathlib/GroupTheory/PushoutI.lean b/Mathlib/GroupTheory/PushoutI.lean
index 6b1bea567c..d1955509a7 100644
--- a/Mathlib/GroupTheory/PushoutI.lean
+++ b/Mathlib/GroupTheory/PushoutI.lean
@@ -465,6 +465,7 @@ noncomputable instance mulAction : MulAction (PushoutI φ) (NormalWord d) :=
       Word.rcons_eq_smul, equiv_fst_eq_mul_inv, map_mul, map_inv, mul_smul, inv_smul_smul,
       smul_inv_smul, base_smul_def', MonoidHom.apply_ofInjective_symm]
 
+set_option trace.profiler true in
 theorem base_smul_def (h : H) (w : NormalWord d) :
     base φ h • w = { w with head := h * w.head } := by
   dsimp [NormalWord.mulAction, instHSMul, SMul.smul]
```
```
ℹ [990/990] Built Mathlib.GroupTheory.PushoutI (5.7s)
info: Mathlib/GroupTheory/PushoutI.lean:469:0: [Elab.command] [0.071533] theorem base_smul_def (h : H) (w : NormalWord d) :
        base φ h • w = { w with head := h * w.head } :=
      by
      dsimp [NormalWord.mulAction, instHSMul, SMul.smul]
      rw [lift_base]
      rfl
  [Elab.definition.header] [0.064651] Monoid.PushoutI.NormalWord.base_smul_def
    [Elab.step] [0.063919] expected type: Sort ?u.122533, term
        base φ h • w = { w with head := h * w.head }
      [Elab.step] [0.063909] expected type: Sort ?u.122533, term
          binrel% Eq✝ (base φ h • w) { w with head := h * w.head }
        [Elab.step] [0.024792] expected type: <not-available>, term
            base φ h
          [Elab.step] [0.010165] expected type: (i : ι) → H →* G i, term
              φ
            [Meta.isDefEq] [0.010136] ✅️ (i : ?m.17) → ?m.19 →* ?m.18 i =?= (i : ι) → H →* G i
              [Meta.isDefEq] [0.010124] ✅️ ?m.19 →* ?m.18 i =?= H →* G i
                [Meta.isDefEq] [0.010020] ✅️ toMulOneClass =?= (inst✝³ i).toMulOneClass
                  [Meta.isDefEq.delta] [0.010003] ✅️ toMulOneClass =?= (inst✝³ i).toMulOneClass
        [Meta.synthInstance] [0.018399] ✅️ HSMul (PushoutI φ) (NormalWord d) (NormalWord d)
        [Elab.step] [0.019544] expected type: NormalWord d, term
            { w with head := h * w.head }
          [Elab.step] [0.017406] expected type: H, term
              h * w.head
            [Elab.step] [0.017385] expected type: H, term
                binop% HMul.hMul✝ h w.head
info: Mathlib/GroupTheory/PushoutI.lean:469:0: [Elab.async] [0.015077] elaborating proof of Monoid.PushoutI.NormalWord.base_smul_def
  [Elab.definition.value] [0.014242] Monoid.PushoutI.NormalWord.base_smul_def
    [Elab.step] [0.013438] 
          dsimp [NormalWord.mulAction, instHSMul, SMul.smul]
          rw [lift_base]
          rfl
      [Elab.step] [0.013421] 
            dsimp [NormalWord.mulAction, instHSMul, SMul.smul]
            rw [lift_base]
            rfl
Build completed successfully (990 jobs).
```

### Trace profiling of `base_smul_def` after PR 28563
```diff
diff --git a/Mathlib/GroupTheory/PushoutI.lean b/Mathlib/GroupTheory/PushoutI.lean
index 6b1bea567c..e161150bab 100644
--- a/Mathlib/GroupTheory/PushoutI.lean
+++ b/Mathlib/GroupTheory/PushoutI.lean
@@ -465,19 +465,16 @@ noncomputable instance mulAction : MulAction (PushoutI φ) (NormalWord d) :=
       Word.rcons_eq_smul, equiv_fst_eq_mul_inv, map_mul, map_inv, mul_smul, inv_smul_smul,
       smul_inv_smul, base_smul_def', MonoidHom.apply_ofInjective_symm]
 
+set_option trace.profiler true in
 theorem base_smul_def (h : H) (w : NormalWord d) :
     base φ h • w = { w with head := h * w.head } := by
-  dsimp [NormalWord.mulAction, instHSMul, SMul.smul]
-  rw [lift_base]
-  rfl
+  tauto
 
 theorem summand_smul_def {i : ι} (g : G i) (w : NormalWord d) :
     of (φ := φ) i g • w = (equivPair i).symm
       { equivPair i w with
         head := g * (equivPair i w).head } := by
-  dsimp [NormalWord.mulAction, instHSMul, SMul.smul]
-  rw [lift_of]
-  rfl
+  tauto
 
 theorem of_smul_eq_smul {i : ι} (g : G i) (w : NormalWord d) :
     of (φ := φ) i g • w = g • w := by
```
```
ℹ [990/990] Built Mathlib.GroupTheory.PushoutI (3.7s)
info: Mathlib/GroupTheory/PushoutI.lean:469:0: [Elab.command] [0.030019] theorem base_smul_def (h : H) (w : NormalWord d) :
        base φ h • w = { w with head := h * w.head } := by tauto
  [Elab.definition.header] [0.024390] Monoid.PushoutI.NormalWord.base_smul_def
    [Elab.step] [0.023783] expected type: Sort ?u.122533, term
        base φ h • w = { w with head := h * w.head }
      [Elab.step] [0.023775] expected type: Sort ?u.122533, term
          binrel% Eq✝ (base φ h • w) { w with head := h * w.head }
        [Meta.synthInstance] [0.010490] ✅️ HSMul (PushoutI φ) (NormalWord d) (NormalWord d)
Build completed successfully (990 jobs).
```
</details>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/PushoutI.lean [hunk 1]
```diff
@@ -467,16 +467,12 @@ noncomputable instance mulAction : MulAction (PushoutI φ) (NormalWord d) :=
 
 theorem base_smul_def (h : H) (w : NormalWord d) :
     base φ h • w = { w with head := h * w.head } := by
```
Comment (tb65536) [inline Mathlib/GroupTheory/PushoutI.lean]: You might as well also get rid of the `by` in this case.

Comment (euprunin) [reply Mathlib/GroupTheory/PushoutI.lean]: Thanks! Fixed.

**Comment by tb65536** [comment]
maintainer merge

**Comment by bryangingechen** [comment]
Thanks!
bors r+
